US06630578B2
Methyl 3,5-dimercaptobenzoate (20.0 g, 100.0 mmol), 3,5-di-tertiarybutylbenzyl bromide (molecular weight 283.25, 57.0 g, 201.2 mmol) and potassium carbonate (molecular weight 138.21, 28.0 g, 202.6 mmol) were dissolved in 350 ml of acetone and the mixture was heated under reflux for 12 hours. The acetone and salts were removed, and the residue was purified by means of chromatography with dichloromethane as the developing solvent, giving methyl 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzoate as needles.

reactant | Methyl 3,5-dimercaptobenzoate | 100.0 mmol, 20.0 g | SC=1C=C(C(=O)OC)C=C(C1)S | C8H8O2S2
reactant | 3,5-di-tertiarybutylbenzyl bromide | 201.2 mmol, 57.0 g | C(C)(C)(C)C=1C=C(CBr)C=C(C1)C(C)(C)C | C15H23Br
reactant | potassium carbonate | 202.6 mmol, 28.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | methyl 3,5-bis(3,5-di-tertiary-butylbenzylthio)benzoate | C(C)(C)(C)C=1C=C(CSC=2C=C(C(=O)OC)C=C(C2)SCC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C1)C(C)(C)C | C38H52O2S2
